US08871756B2
1-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-2-ol
The title compound was prepared in analogy to Example 5-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 1-1) and 1-aminopropan-2-ol. MS obsd. (ESI+) [(M+H)+] 412, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (dd, J=7.71, 1.14 Hz, 1 H), 7.84 (d, J=7.07 Hz, 1 H), 7.71 (s, 1 H), 7.64 (td, J=7.58, 1.26 Hz, 1 H), 7.55 (d, J=8.59 Hz, 1 H), 7.50-7.41 (m, 1 H), 7.37 (dd, J=8.59, 1.52 Hz, 1 H), 6.03 (s, 1 H), 5.16 (s, 2 H), 4.08 (dd, J=11.49, 6.44 Hz, 1 H), 3.62 (t, J=4.80 Hz, 2 H), 3.44-3.35 (m, 4 H), 2.42 (s, 3 H), 1.33 (d, J=6.06 Hz, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1-aminopropan-2-ol | NCC(C)O | C3H9NO
product | 1-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-2-ol | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCC(C)O)C)=O | C22H25N3O3S
